US07105671B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid (200 mg, 0.56 mmol) and triphenylphosphine (195 mg, 0.73 mmol) in methylene chloride (4.0 mL) cooled to 0° C. was treated with N-bromosuccinimide (128 mg, 0.73 mmol) in small portions. After the complete addition of N-bromosuccinimide, the reaction mixture was allowed to warm to 25° C. over 30 min. The bright orange reaction mixture was then treated with 2-amino-5-bromopyrazine (200 mg, 1.12 mmol, prepared according to Tetrahedron 1988, 44, 2977–2983) and 2,6-lutidine (0.28 mL, 2.24 mmol). The resulting reaction mixture was stirred at 25° C. for 4 h. The reaction mixture was then diluted with methylene chloride (25 mL) and was successively washed with a 10% aqueous hydrochloric acid solution (1×20 mL), a saturated aqueous sodium bicarbonate solution (1×20 mL) and water (1×20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 65/35 hexanes/ethyl acetate eluted to 4/6 hexanes/ethyl acetate) afforded N-(5-bromo-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionamide (120 mg, 42%) as an off-white foam: [α]23589=−24.6° (c=0.50, chloroform); EI-HRMS m/e calcd for C20H21BrClN3O4S (M+Na)+ 536.0017, found 536.0022.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid | 0.56 mmol, 200 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)CC1CCC(CC1)=O | C16H19ClO5S
reactant | triphenylphosphine | 0.73 mmol, 195 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.73 mmol, 128 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-amino-5-bromopyrazine | 1.12 mmol, 200 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 2,6-lutidine | 2.24 mmol, 0.28 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionamide | 120 mg, 42% | BrC=1N=CC(=NC1)NC([C@H](CC1CCC(CC1)=O)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C20H21BrClN3O4S
